US07855192B2
Methyl 3-(tert-butoxycarbonylamino)-2-fluorobenzoate.
A solution of monomethyl 2-fluoroisophthalate (0.4 g) in tert-butyl alcohol (10 mL) was treated with Et3N (0.56 mL) and diphenylphosphoryl azide (0.75 mL). After 1 h, the mixture was heated at reflux for 24 h, then cooled and concentrated. The residue was diluted with EtOAc, washed with saturated aqueous NaHCO3, dried over MgSO4, filtered, and evaporated. Silica gel chromatography (acetone/hexane gradient) provided the product. 1H-NMR (CDCl3): δ 8.31 (1H, br t, J=7.2 Hz), 7.55 (1H, ddd, J=1.6, 6.8, 8.0 Hz), 7.16 (1H, ddd, J=1.2, 8.0, 8.0 Hz), 6.80 (1H, br s), 3.93 (3H, s), 1.54 (9H, s).

reactant | monomethyl 2-fluoroisophthalate | 0.4 g | FC1=C(C(=O)OC)C=CC=C1C(=O)[O-]
reactant | Et3N | 0.56 mL | CCN(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.75 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butyl alcohol | 10 mL | C(C)(C)(C)O | C4H10O
product | Methyl 3-(tert-butoxycarbonylamino)-2-fluorobenzoate | C(C)(C)(C)OC(=O)NC=1C(=C(C(=O)OC)C=CC1)F | C13H16FNO4
